US08703941B2
To a solution of 1-N-methyl-4-N-[7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-12-yl]cyclohexane-1,4-diamine (100 mg, 0.33 mmol, 1.00 equiv) in methanol (10 mL) was added oxan-4-one (66 mg, 0.66 mmol, 2.00 equiv), NaBH3CN (104 mg, 1.65 mmol, 5.0 equiv) and acetic acid (0.1 mL) at room temperature under nitrogen. The resulting solution was stirred for 16 h at 30° C. and diluted with water, extracted with EtOAc, washed with brine. The organic layer was concentrated in vacuo. The crude product (130 mg) was purified by Prep-HPLC with the following conditions (SHIMADZU): Column, SunFire Prep C18, 19*150 mm 5 um; mobile phase, water with 0.05% NH4HCO3 and CH3CN (6.0% CH3CN up to 54.0% in 14 min); Flow rate, 20 mL/min; UV detection at 254/220 nm. The product-containing fractions were collected and partially evaporated to remove water and CH3CN under reduced pressure. The residue was lyophilized overnight to give the desired 1-N-methyl-1-N-(oxan-4-yl)-4-N-[7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-12-yl]cyclohexane-1,4-diamine (16.2 mg) as a light yellow solid. MS (ES, m/z): 387 (M+H+); 1H NMR (400 MHz, CD3OD): δ 8.35 (s, 1H), 4.20-4.33 (m, 1H), 4.05-4.16 (m, 2H), 3.61-3.70 (m, 1H), 3.47-3.56 (m, 3H), 3.17 (t, 2H, J=6.8 Hz), 3.06 (t, 2H, J=6.8 Hz), 2.85 (s, 3H), 2.56-2.65 (m, 2H), 2.27-2.32 (m, 2H), 2.18-2.25 (m, 2H), 2.01-2.16 (m, 2H), 1.91-1.97 (m, 1H), 1.79-1.89 (m, 3H), 1.69-1.75 (m, 2H).

reactant | 1-N-methyl-4-N-[7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-12-yl]cyclohexane-1,4-diamine | 0.33 mmol, 100 mg, 1.00 equiv | CNC1CCC(CC1)NC1=NC=NC=2SC=3CCCC3C12 | C16H22N4S
reactant | oxan-4-one | 0.66 mmol, 66 mg, 2.00 equiv | O1CCC(CC1)=O | C5H8O2
reactant | NaBH3CN | 1.65 mmol, 104 mg, 5.0 equiv | [BH3-]C#N.[Na+]
reactant | acetic acid | 0.1 mL | C(C)(=O)O | C2H4O2
solvent | methanol | 10 mL | CO | CH4O
solvent | water | O | H2O
product | 1-N-methyl-1-N-(oxan-4-yl)-4-N-[7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-12-yl]cyclohexane-1,4-diamine | 16.2 mg | CN(C1CCC(CC1)NC1=NC=NC=2SC=3CCCC3C12)C1CCOCC1 | C21H30N4OS
